US04550107
11-[[2-[(Diethylamino)methyl]-1-piperidinyl]acetyl]-5,11-Dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one
Ethyl chlorocarbonate (11.0 g, 0.101 mol) is added dropwise, at 0° C., to a suspension of 2-[(diethylamino)methyl]-1-piperidino acetic acid (22.83 g, 0.1 mol) in dry tetrahydrofuran (200 ml). Then, 5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one (21.12 g, 0.1 mol) and triethylamine (20.24 g, 0.2 mol) are added to the resulting suspension which is then stirred for a further hour at 0° C. and then for 4 hours at ambient temperature. The mixture is poured into 2N sodium hydroxide solution (1.6 liters), extracted exhaustively with dichloromethane, the organic phase concentrated to dryness and the residue purified by recrystallization from ethanol and from methanol. Colorless crystals (6.3 g) are obtained, mp. 226°-228° C., which were shown by thin layer chromatography, mixed melting point and IR spectrum to be identical to a sample prepared according to Example 34.

reactant | Ethyl chlorocarbonate | 0.101 mol, 11.0 g | C(OCC)(=O)Cl | C3H5ClO2
reactant | 5,11-dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 0.1 mol, 21.12 g | N1=CC=CC2=C1NC1=C(C(N2)=O)C=CC=C1 | C12H9N3O
reactant | triethylamine | 0.2 mol, 20.24 g | C(C)N(CC)CC | C6H15N
reactant | sodium hydroxide | 2N, 1.6 liters | [OH-].[Na+]
solvent | tetrahydrofuran | 200 ml | O1CCCC1 | C4H8O
product | 11-[[2-[(Diethylamino)methyl]-1-piperidinyl]acetyl]-5,11-Dihydro-6H-pyrido[2,3-b][1,4]benzodiazepin-6-one | 6.3 g | C(C)N(CC)CC1N(CCCC1)CC(=O)N1C2=C(NC(C3=C1C=CC=C3)=O)C=CC=N2 | C24H31N5O2
